US05081246
3-(4-Chlorocinnamylamino)-2-(5-isoquinolinesulfonylamino)pyridine
4.52 g of the crystals obtained in Reference Example 41 was dissolved in 50 ml of pyridine, to the solution were added 5.8 g of 5-isoquinolinesulfonyl chloride hydrochloride and 3 g of dimethylaminopyridine, and the mixture was stirred for 18 hours at a room temperature, after adding 150 ml of water, extracted twice with 80 ml of chloroform. The extract was dried over magnesium sulfate and concentrated under a reduced pressure, and resulting residue was applied to a silica gel column and eluted with chloroform/methanol (100:1), and resulting crystals was washed with ethyl acetate, to obtain 1.2 g of the title compound as yellow crystals.

reactant | 5-isoquinolinesulfonyl chloride hydrochloride | 5.8 g | Cl.C1=NC=CC=2C(=CC=CC12)S(=O)(=O)Cl
reactant | dimethylaminopyridine | 3 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | water | 150 ml | O | H2O
reactant | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 3-(4-Chlorocinnamylamino)-2-(5-isoquinolinesulfonylamino)pyridine | 1.2 g | ClC1=CC=C(C=CCNC=2C(=NC=CC2)NS(=O)(=O)C=2C=3C=CN=CC3C=CC2)C=C1 | C23H19ClN4O2S
